US05166204
5 ml of ethanol and 1.2 ml of a 5 N aqueous sodium hydroxide solution were added to 200 mg of 5-methyl-2-(4-methylphenyl)-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione. The mixture was refluxed for 30 minutes. Thereto was added 1.2 ml of concentrated hydrochloric acid. The resulting mixture was refluxed for 1 hour and then cooled to room temperature. Then, thereto were added 20 ml of ethyl acetate and 10 ml of water. The organic layer was separated, washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was mixed with 2.0 ml of acetic anhydride. The mixture was refluxed for 30 minutes, and then concentrated to dryness under reduced pressure. The residue was washed with diethyl ether and dried to obtain 140 mg (yield: 91%) of 4-methyldibenzofuran-1,2-dicarboxylic anhydride as light yellow crystals.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | 5-methyl-2-(4-methylphenyl)-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione | 200 mg | CC=1C2=C(C=3C(N(C(C3C1)=O)C1=CC=C(C=C1)C)=O)C1=C(O2)C=CC=C1 | C22H15NO3
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-methyldibenzofuran-1,2-dicarboxylic anhydride | 140 mg, yield: 91% | CC=1C=C2C(=C3C1OC1=C3C=CC=C1)C(=O)OC2=O | C15H8O4
